US05231102
c) 4-(3-Azidoprop-2-ynyl)phenylacetic acid methyl ester
4-(3-Chloroprop-2-ynyl)phenylacetic acid methyl ester (5.3 g, 0.023M) was dissolved in dry dimethylformamide (30 ml) with sodium azide (1.7 g, 1.1 molar equivalents) and stirred at room temperature for 14 h. The reaction mixture was diluted with water (200 ml) and washed with dichloromethane (2×150 ml). The combined organic layers were washed with water (2×100 ml) and brine (1×100 ml) then dried (Na2SO4), filtered and concentrated in vacuo to give a residue which was purified by passage down a silica gel column, using as eluents 20% dichloromethane in hexane and finally neat dichloromethane, to give the required product (5.3 g) as a colourless oil. δ (360 MHz, CDCl3) 3.63 (2H, s, CH2CO2CH3), 3.70 (3H, s, CH2CO2CH3), 4.14 (2H, s, CH2N3), 7.24 (2H, d, J=8.4 Hz, ArH), 7.42 (2H, d, J=8.4 Hz, ArH); m/e 229 (M+).

reactant | 4-(3-Chloroprop-2-ynyl)phenylacetic acid methyl ester | 0.023M, 5.3 g | COC(CC1=CC=C(C=C1)CC#CCl)=O | C12H11ClO2
reactant | sodium azide | 1.1 molar, 1.7 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 4-(3-Azidoprop-2-ynyl)phenylacetic acid methyl ester | 5.3 g | COC(CC1=CC=C(C=C1)CC#CN=[N+]=[N-])=O | C12H11N3O2
